US08378095B2
A solution of tert-butyl 4-(4-nitrobenzoyl)piperazine-1-carboxylate (1.00 g, 3.00 mmol) in MeOH (60 ml) was hydrogenated at 20° C. at atmospheric pressure using an H-Cube (flow rate at 1 ml/min and full hydrogen mode) using a Pd/C cartridge. The solvent was removed in vacuo to afford tert-butyl 4-(4-aminobenzoyl)piperazine-1-carboxylate (0.85 g, 2.79 mmol, 93%) as a white solid. 1H NMR (CDCl3) δ 1.41 (9H, s), 3.38 (4H, m), 3.53 (4H, m), 4.07 (2H, br. s), 6.55 (2H, d), 7.17 (2H, d). LCMS (2) Rt: 2.14 min; m/z (ES+) 306.

reactant | tert-butyl 4-(4-nitrobenzoyl)piperazine-1-carboxylate | 3.00 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H21N3O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 60 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-(4-aminobenzoyl)piperazine-1-carboxylate | 2.79 mmol, 0.85 g, 93% | NC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H23N3O3
